US04409214
To a solution of benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate (syn isomer)(25.0 g) in ethyl acetate (300 ml) was added a solution of triphenylphosphine (21.0 g) in tetrahydrofuran (170 ml), and the mixture was heated under reflux for 10 hours. The precipitated substance was collected by filtration to give [7-{2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido}-4-benzhydryloxycarbonyl-3-cephem-3-yl]methyl-triphenylphosphonium chloride (syn isomer)(17.7 g). The remained filtrate was heated under reflux for 10 hours. Similarly, the precipitated substance was collected by filtration to recover the same product (9.75 g). Further, this operation was repeated once to recover the same product (3.3 g). Total yield: 30.75 g.

reactant | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate | 25.0 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C28H24ClN5O6S2
reactant | triphenylphosphine | 21.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
product | [7-{2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido}-4-benzhydryloxycarbonyl-3-cephem-3-yl]methyl-triphenylphosphonium chloride | 17.7 g | [Cl-].C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | InChI=1S/C46H38N5O6PS2.ClH/c1-56-50-38(37-29-60-46(48-37)47-30-52)42(53)49-39-43(54)51-40(45(55)57-41(31-17-7-2-8-18-31)32-19-9-3-10-20-32)33(28-59-44(39)51)27-58(34-21-11-4-12-22-34,35-23-13-5-14-24-35)36-25-15-6-16-26-36;/h2-26,29-30,39,41,44H,27-28H2,1H3,(H-,47,48,49,52,53);1H/t39?,44-;/m1./s1
